### PR TITLE
Refactor bigop lemmas in order.v

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR refactors some bigop lemmas in `order.v` and also demonstrates a good practice about bigop: prove your bigop lemma in the most general form (using bigops over a list) first and deduce others from that.

These changes are cherry-picked from #464.

##### Things done/to do

- ~[ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)~
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/order.v [hunk 1]
```diff
@@ -4242,11 +4214,23 @@ Lemma meet_max_seq T (r : seq T) (P : {pred T}) (F : T -> L) (x : T) (u : L) :
   x \in r -> P x -> F x <= u -> \meet_(x <- r | P x) F x <= u.
 Proof. exact: (@join_min_seq _ [tbLatticeType of L^d]). Qed.
 
+Lemma meets_inf I (j : I) (P : {pred I}) (F : I -> L) :
+   P j -> \meet_(i | P i) F i <= F j.
+Proof. exact: (@join_sup _ [tbLatticeType of L^d]). Qed.
+
+Lemma meets_max I (j : I) (u : L) (P : {pred I}) (F : I -> L) :
+   P j -> F j <= u -> \meet_(i | P i) F i <= u.
+Proof. exact: (@join_min _ [tbLatticeType of L^d]). Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:4223]: These namings are inconsistent between `\meet_` and `\join_`.

Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:4223]: Thanks for the remark. I spotted another problem that I will fix right now.
